US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (191 mg, 0.270 mmol) was deprotected in HCl in dioxane/MeOH (5/5 ml). This afforded 173 mg (99% yield) of the titled. MS: m/z=606.8 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.270 mmol, 191 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C40H40FN5O4S
reactant | HCl | Cl | ClH
solvent | dioxane MeOH | 5 ml | O1CCOCC1.CO
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(piperidin-4-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 99% yield | Cl.FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)C3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | InChI=1S/C35H32FN5O2S.ClH/c1-24-5-11-32(12-6-24)44(42,43)41-23-34(30-20-39-40(22-30)21-25-3-2-4-31(36)17-25)33-18-29(19-38-35(33)41)27-9-7-26(8-10-27)28-13-15-37-16-14-28;/h2-12,17-20,22-23,28,37H,13-16,21H2,1H3;1H
